US07754747B2
A mixture of 6-[2-(1-benzyl-1H-indol-3-yl)-1,3-oxazol-5-yl]-2-naphthol (137 mg, 0.329 mmol), prepared in step 4 of Example 5, bromoacetonitrile (28 μL, 0.402 mmol) and cesium carbonate (213 mg, 0.402 mmol) in 20 mL of acetone was stirred under nitrogen at room temperature for 20 h (overnight). The acetone was removed under reduced pressure and the residue partitioned between methylene chloride and water. The organic layer was separated and the aqueous layer extracted two times with methylene chloride. The combined extracts were dried (MgSO4), filtered and the solvent removed under reduced pressure to give ({6-[2-(1-benzyl-1H-indol-3-yl)-1,3-oxazol-5-yl]-2-naphthyl}oxy)acetonitrile (142 mg, 95%) as a tan solid, mp 205-208° C. Elemental Analysis for C30H21N3O2+0.38 mole of CH2Cl2 Calc'd: C, 74.86; H, 4.50; N, 8.62. Found: C, 73.58; H, 4.74; N, 8.32.

reactant | 6-[2-(1-benzyl-1H-indol-3-yl)-1,3-oxazol-5-yl]-2-naphthol | 0.329 mmol, 137 mg | C(C1=CC=CC=C1)N1C=C(C2=CC=CC=C12)C=1OC(=CN1)C=1C=C2C=CC(=CC2=CC1)O | C28H20N2O2
reactant | bromoacetonitrile | 0.402 mmol, 28 μL | BrCC#N | C2H2BrN
reactant | cesium carbonate | 0.402 mmol, 213 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetone | 20 mL | CC(=O)C | C3H6O
product | ({6-[2-(1-benzyl-1H-indol-3-yl)-1,3-oxazol-5-yl]-2-naphthyl}oxy)acetonitrile | 142 mg, 95% | C(C1=CC=CC=C1)N1C=C(C2=CC=CC=C12)C=1OC(=CN1)C=1C=C2C=CC(=CC2=CC1)OCC#N | C30H21N3O2
